US06015826
3-(2-chloro-6-fluorophenyl)-5-(3,4,5-trichlorothien-2-yl)-1-methyl[1,2,4]triazole (Compound 2)
To a mixture of N-methyl-N-benzenesulfonyl-2-chloro-6-fluorobenzhydrazonoyl chloride (47.5 g, 0.131 mol) and 2-cyano-3,4,5-trichlorothiophene (26.5 g 0.125 mol in o-dichlorobenzene (18 mL), was added aluminum chloride (11.1 g, 0.083 mol). The mixture was lowered into a preheated oil bath maintained at 140-150° C. The mixture was allowed to remain in the hot oil bath 40 min and was then removed from the bath and stirred for 2 hr as it gradually cooled. The reaction mixture was poured into 2N sodium hydroxide (300 mL-enough to dissolve the aluminum salts) and extracted with methylene chloride (3×250 mL). The organic phases were combined, washed with brine, dried (MgSO4), and the solvent removed in vacuo to give the crude product. The residue was placed on silica gel (150 g) and then chromatographed using ethyl acetate/hexanes as eluant to obtain 39.7 g (55.3% yield) of the title compound; 99.4% pure by GC analysis; mp 129-130° C.; 1H NMR (CDCl3) δ 7.3 (m, 2H), 7.1 (m, 1H), 4.0 (s, 3H); Anal. for C13H6Cl4FN3S: Calcd. C, 39.32; H, 1.52; N, 10.58. Found C, 39.08; H, 1.30; N, 10.34.

reactant | N-methyl-N-benzenesulfonyl-2-chloro-6-fluorobenzhydrazonoyl chloride | 0.131 mol, 47.5 g | CN(N=C(C1=C(C=CC=C1F)Cl)Cl)S(=O)(=O)C1=CC=CC=C1 | C14H11Cl2FN2O2S
reactant | 2-cyano-3,4,5-trichlorothiophene | C(#N)C=1SC(=C(C1Cl)Cl)Cl | C5Cl3NS
reactant | aluminum chloride | 0.083 mol, 11.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | o-dichlorobenzene | 18 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(2-chloro-6-fluorophenyl)-5-(3,4,5-trichlorothien-2-yl)-1-methyl[1,2,4]triazole | 39.7 g, 55.3% yield | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C=1SC(=C(C1Cl)Cl)Cl)C | C13H6Cl4FN3S
